US03983133
A mixture of 18.3 parts of 5-(o-chlorophenyl)-2-(methylthio)-2-imidazoline-1-ethanol hydroiodide and 40 parts of methanol saturated with ammonia is stirred and refluxed for 2 hours. The solvent is evaporated and the solid residue is treated with 20 parts of 2-propanol. The product is filtered off and recrystallized from 50 parts of water, yielding 2-amino-5-(o-chlorophenyl)-2-imidazoline-1-ethanol hydroiodide, m.p. 181.6°C.

reactant | 5-(o-chlorophenyl)-2-(methylthio)-2-imidazoline-1-ethanol hydroiodide | I.ClC1=C(C=CC=C1)C1CN=C(N1CCO)SC
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 2-amino-5-(o-chlorophenyl)-2-imidazoline-1-ethanol hydroiodide | I.NC=1N(C(CN1)C1=C(C=CC=C1)Cl)CCO | InChI=1S/C11H14ClN3O.HI/c12-9-4-2-1-3-8(9)10-7-14-11(13)15(10)5-6-16;/h1-4,10,16H,5-7H2,(H2,13,14);1H
